US06743608B2
(2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid/2-Ethoxyethyl (2R)-2-ethoxy-3-(4-hydroxyphenyl)propanoate
Ethoxyethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate (0.5 ml of a solution containing 2 mg/ml in a phosphate, pH 7; 0.1 M, or acetate buffer, pH 5; 0.1 M) was added to the reaction vessel followed by an enzyme (0.5 ml enzyme solution). The reaction mixture was shaken at room temperature and analysed at different times (maximum 36 h). The reaction mixture was analysed without work up by the gradient HPLC method 1, chiral HPLC methods 2 and 5, and by the CCE method 1.

reactant | Ethoxyethyl (2RS) (+/−) 2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)OC(C(=O)OCCOCC)CC1=CC=C(C=C1)O | C15H22O5
reactant | phosphate | P(=O)([O-])([O-])[O-]
reactant | acetate | C(C)(=O)[O-]
product | (2S)-2-Ethoxy-3-(4-hydroxyphenyl)propanoic acid 2-Ethoxyethyl (2R)-2-ethoxy-3-(4-hydroxyphenyl)propanoate | C(C)O[C@H](C(=O)O)CC1=CC=C(C=C1)O.C(C)O[C@@H](C(=O)OCCOCC)CC1=CC=C(C=C1)O | InChI=1S/C15H22O5.C11H14O4/c1-3-18-9-10-20-15(17)14(19-4-2)11-12-5-7-13(16)8-6-12;1-2-15-10(11(13)14)7-8-3-5-9(12)6-4-8/h5-8,14,16H,3-4,9-11H2,1-2H3;3-6,10,12H,2,7H2,1H3,(H,13,14)/t14-;10-/m10/s1
